US07576215B2
3-[3-MESITYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and (2,4,6-Trimethyl-phenyl)-acetaldehyde following the procedure of Example 457: MS (ES) m/z 405.9; HRMS: calcd for C25H20F3NO+H+, 408.15697; found (ESI, [M+H]+), 408.1573.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | (2,4,6-Trimethyl-phenyl)-acetaldehyde | CC1=C(C(=CC(=C1)C)C)CC=O | C11H14O
product | 3-[3-MESITYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL | C1(=C(C(=CC(=C1)C)C)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F)C | C25H20F3NO
